US05608056
To a solution of allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{2-(5-hydroxymethylimidazol-1-yl)ethyl}pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo [3.2.0]hept-2-ene-2-carboxylate (790 mg) in acetone (4.0 ml) was added methyl iodide (0.88 ml) at room temperature and the solution was allowed to stand for 12 hours. The solvent was evaporated to give allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{2-(5-hydroxymethyl-3-methyl-1-imidazolio)ethyl}pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate iodide (991 mg) as a yellow solid. This compound was immediately used as the starting compound for the next step.

reactant | allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{2-(5-hydroxymethylimidazol-1-yl)ethyl}pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo [3.2.0]hept-2-ene-2-carboxylate | 790 mg | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)CCN1C=NC=C1CO | C27H36N4O7S
reactant | methyl iodide | 0.88 ml | CI | CH3I
solvent | acetone | 4.0 ml | CC(=O)C | C3H6O
product | allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{2-(5-hydroxymethyl-3-methyl-1-imidazolio)ethyl}pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate iodide | 991 mg | [I-].C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)CC[N+]1=CN(C=C1CO)C | InChI=1S/C28H39N4O7S.HI/c1-6-10-38-27(36)24-25(17(3)23-22(18(4)34)26(35)32(23)24)40-21-12-19(31(14-21)28(37)39-11-7-2)8-9-30-16-29(5)13-20(30)15-33;/h6-7,13,16-19,21-23,33-34H,1-2,8-12,14-15H2,3-5H3;1H/q+1;/p-1/t17-,18-,19-,21+,22-,23-;/m1./s1
